US07786108B2
Step 13. Preparation of (S)-tert-Butyl 5-amino-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Shake a mixture of (S)-tert-butyl 5-azido-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (1.44 g, 3.89 mmol) and 5% palladium on charcoal (0.15 g, 50% wet) in methanol (50 mL) under 20 psi of hydrogen in a Parr bottle at room temperature for 12 h. Filter the mixture through Celite® and remove the solvents under reduced pressure to provide the title compound as a colorless oil (1.30 g, >99%), which is used in the next step without further purification. APCI MS m/z 344 (M+H)+.

reactant | (S)-tert-butyl 5-azido-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 3.89 mmol, 1.44 g | N(=[N+]=[N-])[C@@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H21F3N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | (S)-tert-Butyl 5-amino-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 1.30 g, >99% | N[C@@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H23F3N2O2
